US20010021764A1
d) 3,3′-sulfonyl Bis(6-chlorobenzene Sulfonic Acid) Dipotassium Salt
57.44 g of bis(4-chlorophenyl)sulfone are dissolved in 60%-oleum in a round-bottomed flask with a drying conduit under cooling with ice and stirring, heated to 120° C., and kept at this temperature overnight. The reaction mixture is added to water and the product is salted out with potassium chloride. It precipitates as a white deposit, is syphoned off, washed with a saturated potassium chloride solution, and recrystallized from ethanol/water (5:4). 65.4 g (62% yield) are obtained as product in white needles, which crumble to a white powder by drying under high vacuum at 120° C. The melting or decomposition point is above 250° C. The characterization takes place with 1H-NMR and 13C-NMR spectroscopy.

reactant | bis(4-chlorophenyl)sulfone | 57.44 g | ClC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)Cl | C12H8Cl2O2S
reactant | water | O | H2O
reactant | potassium chloride | [Cl-].[K+]
reactant | oleum | OS(=O)(=O)O.O=S(=O)=O
product | 3,3′-sulfonyl Bis(6-chlorobenzene Sulfonic Acid) Dipotassium Salt | 62% yield | [K+].[K+].S(=O)(=O)(C=1C=C(C(=CC1)Cl)S(=O)(=O)[O-])C=1C=C(C(=CC1)Cl)S(=O)(=O)[O-] | InChI=1S/C12H8Cl2O8S3.2K/c13-9-3-1-7(5-11(9)24(17,18)19)23(15,16)8-2-4-10(14)12(6-8)25(20,21)22;;/h1-6H,(H,17,18,19)(H,20,21,22);;/q;2*+1/p-2
